US07049313B2
4-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-phenothiazine-10-carboxylic acid tert-butyl ester (134)
Powdered potassium carbonate (2.03 g, 14.68 mmol) and 2-Chloro-6-morpholin-4-yl-pyran-4-one (1.44 g, 6.70 mmol) were added to a stirred solution of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenothiazine-10-carboxylic acid tert-butyl ester (2.85 g, 6.70 mmol) in anhydrous dioxane (20 ml) and the mixture degassed (sonication for 20 minutes then saturated with N2) thoroughly. Tetrakis (triphenylphosphine) palladium was then added in a single portion and the mixture degassed (sonication for 20 minutes then saturated with N2) once again before a reflux condenser was attached and the mixture heated to 100° C. under a nitrogen atmosphere for 20 hours. Water (30 ml) was added and the mixture extracted with EtOAc (3×30 ml). The organic extracts were then dried using MgSO4, filtered and concentrated in vacuo to yield a dark brown, crystalline solid (3.21 g, 100%) that was taken forward with no further purification. m/z (LC-MS, ESP): 479 [M+H]+, R/T=4.55 mins

reactant | potassium carbonate | 14.68 mmol, 2.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Chloro-6-morpholin-4-yl-pyran-4-one | 6.70 mmol, 1.44 g | ClC=1OC(=CC(C1)=O)N1CCOCC1 | C9H10ClNO3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenothiazine-10-carboxylic acid tert-butyl ester | 6.70 mmol, 2.85 g | C(C)(C)(C)OC(=O)N1C2=CC=CC=C2SC=2C(=CC=CC12)B1OC(C(O1)(C)C)(C)C | C23H28BNO4S
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-phenothiazine-10-carboxylic acid tert-butyl ester | 3.21 g, 100% | C(C)(C)(C)OC(=O)N1C2=CC=CC=C2SC=2C(=CC=CC12)C=1OC(=CC(C1)=O)N1CCOCC1 | C26H26N2O5S
